Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with past medical
history notable for hypertension, prior small intestinal bleed
(sounds like distal upper AVM), recent hospitalization for
seizures in the setting of gallstone pancreatitis status post
cholecystectomy who was discharged on ___ who presents to
the hospital with several days of weakness.  She reports that
initially following discharge she was feeling well.  She reports
that after several days at home she started to feel increasingly
fatigued.  She reports that she felt similar to when she was
bleeding in ___ and required the upper GI which found a
likely AVM.  She reports the records from that hospitalization 
or
at ___ in ___.  She reports that at that 
time
her bowel movements were normal.  She reports that on the 
evening
prior to admission she developed diarrhea with black stools.  
She
reports that this is the exact same happened last time she had
the upper GI bleed.  She reports that she continue to feel
further fatigue.  She touch base with her primary care doctor 
who
referred her into the emergency department for further
evaluation.  She also reports that while at home she had a
decreased appetite.  Per her daughter she started to look
increasingly pale.  She became lightheaded and dizzy in the
shower on several occasions.  She also reports that she had
urinary symptoms from around the time she got home.  She reports
that over the last 6 days she has had increased lower abdominal
pain, burning on urination, pressure.  She reports that she 
feels
like it got so bad she decreased her p.o. intake to reduce the
amount that she would have to urinate.  She also reports that 
she
had some blood in the urine.

In the emergency department she was seen and evaluated.  Her
initial vital signs were unremarkable.  She was afebrile with a
heart rate of 81, blood pressure 157/94, respiratory rate of 18. 

Her H&H was notable for 11.3/35.3 which is up from her discharge
hemoglobin and hematocrit of 8.7/26.8.  She had a UA that was
checked which unfortunately contained 9 epithelial cells.  It 
did
have positive nitrates, large leukocyte esterase, greater than
184 white blood cells as well as few bacteria.  She received 1 g
of IV ceftriaxone, 2 L of normal saline, and was admitted to the
medical service for further evaluation and management.  She was
also evaluated by the surgery service while in the emergency
department he felt like if she had anything was likely a slow GI
bleed and would not require acute surgical intervention and 
would
recommend admission to medicine for a GI workup.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Gallstone pancreatitis status post cholecystectomy ___
Seizures in the setting of the above gallstone pancreatitis
Hypertension due to renal artery stenosis, difficult to control
Prior history of upper GI bleed from a likely AVM
Prior history of DVT no longer on anticoagulation
 
Social History:
___
Family History:
___ and found to be not relevant to this
illness/reason for hospitalization.  She specifically denies any
family history of seizures or strokes.
 
Physical Exam:
ADMISSION EXAM
--------------
VITALS: 98.4 PO 147 / 72 60 18 100 RA 
GENERAL: Alert and in no apparent distress, laying in bed
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation over the
suprapubic region.  Laparoscopic cholecystectomy incisions
healing well.  Bowel sounds present.  No HSM.  No CVA tenderness
GU: No suprapubic fullness but significant tenderness to
palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
--------------
VS:  Reviewed
GENERAL: Alert and in no apparent distress, laying in bed
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur. 
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation over the
suprapubic region.  Laparoscopic cholecystectomy incisions
healing well.  Bowel sounds present.  
GU: No suprapubic fullness but significant tenderness to
palpation
PSYCH: pleasant, appropriate affect 
 
Pertinent Results:
ADMISSION LABS
--------------
___ 03:46PM BLOOD WBC-10.6*# RBC-3.78*# Hgb-11.5# Hct-35.3# 
MCV-93 MCH-30.4 MCHC-32.6 RDW-14.0 RDWSD-47.6* Plt ___
___ 03:46PM BLOOD Neuts-71.9* Lymphs-17.5* Monos-6.9 
Eos-2.6 Baso-0.7 Im ___ AbsNeut-7.65* AbsLymp-1.86 
AbsMono-0.73 AbsEos-0.28 AbsBaso-0.07
___ 02:22PM BLOOD Glucose-108* UreaN-12 Creat-1.0 Na-145 
K-4.8 Cl-104 HCO3-24 AnGap-17
___ 02:22PM BLOOD ALT-18 AST-17 AlkPhos-121* TotBili-0.5

MICROBIOLOGY
------------
___ 4:55 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         PREDOMINATING ORGANISM.  INTERPRET RESULTS WITH 
CAUTION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
--------------
___ 08:10AM BLOOD WBC-5.6 RBC-2.92* Hgb-8.9* Hct-27.2* 
MCV-93 MCH-30.5 MCHC-32.7 RDW-13.3 RDWSD-45.4 Plt ___
___ 08:10AM BLOOD Glucose-101* UreaN-11 Creat-1.0 Na-142 
K-4.6 Cl-101 HCO3-30 AnGap-11
___ 07:10AM BLOOD ALT-16 AST-17 AlkPhos-91 TotBili-0.4
___ 07:45AM BLOOD Calcium-9.7 Phos-3.8 Mg-1.7
___ 03:46PM BLOOD calTIBC-411 Ferritn-___-___
___ 02:35PM BLOOD Lactate-1.8

KUB: 
IMPRESSION: 
Normal bowel gas pattern.
 
Brief Hospital Course:
___ female with past medical history notable for 
hypertension, prior small intestinal bleed (sounds like distal 
upper AVM), recent hospitalization for seizures in the setting 
of gallstone pancreatitis status post cholecystectomy who was 
discharged on ___ who presents to the hospital with 
several days of weakness. 

# Possible upper GI bleed
# Gastritis: Patient reported several episodes of black stools, 
but none during admission.  Hemoglobin downtrended over the 
course of admission.  Awaiting records from ___ 
in ___.   GI following patient, but did not plan on 
EGD/colonoscopy.  H. pylori antigen was sent.  She was placed on 
PO pantoprazole, as well as home famotidine and simethicone, 
given complaints of indigestion, as well as antiemetics.

# Urinary tract infection: Patient reported approximately five 
days of urinary tract symptoms with pain on urination, burning 
on urination, and suprapubic fullness.  Pan-sensitive E.coli on 
urine specimen, placed on ceftriaxone and switched to 
ciprofloxacin for 7-day course.  She was also placed on three 
day course of pyridium.

# Weakness: suspect related to UTI and possible slow GI bleed, 
see above.  ___ consulted. She progressed and was able to be 
discharged home. 

#Constipation
Patient noted to constipated likely ___ to opioids and decreased 
mobility. KUB without obstruction. She received bowel regimen. 
She had a bowel movement prior to discharge.

# HTN due to
# RAS: Patient has renal artery stenosis as documented on her 
prior admission.  She has difficult to control blood pressures.  
She was stabilized on a regimen during her prior 
hospitalization.  Continued home antihypertensive regimen of 
amlodipine, labetalol, lisinopril.

# Seizure Disorder: Patient had generalized tonic-clonic seizure 
during her prior hospitalization in the setting of her gallstone 
pancreatitis.  She was seen by neurology during her prior 
hospitalization and is now on antiseizure medication with 
outpatient follow-up.  She was continued on her home Keppra.

# GERD: continued on home famotidine and added PO pantoprazole.

I updated her son and daughter with the plan of care. 

TRANSITIONS OF CARE
-------------------
# Follow-up: patient will follow up with her PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY hypertension 
2. Atorvastatin 40 mg PO QPM 
3. LevETIRAcetam 1500 mg PO Q12H 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
5. Lisinopril 40 mg PO DAILY 
6. Famotidine 20 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 
9. Labetalol 400 mg PO BID Hypertension 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
2.  Ondansetron 4 mg PO Q8H 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

RX *oxycodone 5 mg 1 capsule(s) by mouth every eight (8) hours 
Disp #*6 Capsule Refills:*0 
4.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth once a day Disp #*30 Packet Refills:*0 
6.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
7.  amLODIPine 10 mg PO DAILY hypertension  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 40 mg PO QPM  
10.  Famotidine 20 mg PO BID  
11.  Labetalol 400 mg PO BID Hypertension  
12.  LevETIRAcetam 1500 mg PO Q12H  
13.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
Gastritis/peptic ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent admission at 
___.  You came for further evaluation of weakness, pain when 
urinating and black stools.  

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Please follow up with your PCP ___. 
Please arrange to have you labs checked.

Good luck!
 
Followup Instructions:
___